US08809380B2
Step 1. ethyl 3-((1-(tert-butoxycarbonyl)-3-methylpyrrolidin-3-yl)methoxy)picolinate
The title compound was prepared according to the procedure described in Step 1 of EXAMPLE 29 using tert-butyl 3-(hydroxymethyl)-3-methylpyrrolidine-1-carboxylate and ethyl 3-hydroxypicolinate instead of (R)-tert-butyl 2-(hydroxymethyl)pyrrolidine-1-carboxylate and 5-chloropyridin-3-ol.

reactant | tert-butyl 3-(hydroxymethyl)-3-methylpyrrolidine-1-carboxylate | OCC1(CN(CC1)C(=O)OC(C)(C)C)C | C11H21NO3
reactant | ethyl 3-hydroxypicolinate | OC=1C(=NC=CC1)C(=O)OCC | C8H9NO3
reactant | 5-chloropyridin-3-ol | ClC=1C=C(C=NC1)O | C5H4ClNO
product | ethyl 3-((1-(tert-butoxycarbonyl)-3-methylpyrrolidin-3-yl)methoxy)picolinate | C(C)(C)(C)OC(=O)N1CC(CC1)(C)COC=1C(=NC=CC1)C(=O)OCC | C19H28N2O5
